US07074935B2
Detailed Steps of Synthesis of Alfentanil
The alfentanil HCl obtained from step 7 is recrystallized from an HCl solution to give the final product as follows. 60.5 g of alfentanil HCl is placed into 2.5× amount of water (151 g H2O). To this is added 5.2 g activated charcoal and 10.4 g filtration aid (diatomaceous earth). Then 15.1 mL concentrated HCl is added (0.25 mL/g alfentanil HCl) and this is stirred until a slurry forms. This is followed by addition of 1 mL 1 N HCl/g alfentanil HCl (60.5 mL of 1 N HCl in this Example). This is chilled for over 2 hours and then filtered. The product is dried at approximately 40–55° C. until it is a constant weight. This final product is a monohydrate form of alfentanil HCl.

reactant | alfentanil HCl | 60.5 g | CCC(=O)N(C=1C=CC=CC1)C2(CCN(CC2)CCN3C(=O)N(N=N3)CC)COC.Cl
solvent | water | 151 g | O | H2O
product | Alfentanil | CCC(=O)N(C=1C=CC=CC1)C2(CCN(CC2)CCN3C(=O)N(N=N3)CC)COC | C21H32N6O3
